US05922741
5-Amino-1-tert-butyl-3-(4-methoxycarbonylphenyl)pyrazole-4-carboxamide
A mixture of 5-amino-1-tert-butyl-4-cyano-3-(4-methoxycarbonylphenyl)pyrazole (448 mg, 1.5 mmol) and tetrakis(triphenylphosphine)ruthenium dihydride in dimethoxyethane (1 ml) and water (54 μl) was heated at 120° under a nitrogen atmosphere in a sealed tube for 18 h. The reaction was concentrated under reduced pressure and the residue subjected to column chromatography (silica 4% methanol-CH2Cl2) to give the title compound (170 mg) after recrystallisation from ethyl acetate as a colourless solid m.p. 237-239°. δH (CDCl3) 1.67 (9H, s), 4.39 (3H, s), 5.10 (2H, br s), 5.69 (2H, br s), 7.66 (2H, d, J 8.2 Hz), and 8.11 (2H, d, J 8.3 Hz).

reactant | 5-amino-1-tert-butyl-4-cyano-3-(4-methoxycarbonylphenyl)pyrazole | 1.5 mmol, 448 mg | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)C(=O)OC)C#N | C16H18N4O2
reactant | dimethoxyethane | 1 ml | C(OC)COC | C4H10O2
solvent | water | 54 μl | O | H2O
catalyst | tetrakis(triphenylphosphine)ruthenium dihydride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Ru]
product | 5-Amino-1-tert-butyl-3-(4-methoxycarbonylphenyl)pyrazole-4-carboxamide | 170 mg | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)C(=O)OC)C(=O)N | C16H20N4O3
